US05922724
1-(3-Nitrophenyl)pyrrol:
A mixture of 3-nitroaniline (15 g, 0.11 mmol), 2,5-dimethoxytetrahydrofuran (42 ml, 0.33 mol) and a catalytic amount of pTSA in dry toluene (150 ml) is heated to reflux for 2 hours. After cooling the mixture is concentrated under reduced pressure and the residue is purified by column-chromatography on silica gel using a mixture of ethyl acetate and petroleum ether (1:1) as the eluent. Yield: 16 g (78%). Mp 65-70° C.

reactant | 3-nitroaniline | 0.11 mmol, 15 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.33 mol, 42 ml | COC1OC(CC1)OC | C6H12O3
reactant | pTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-Nitrophenyl)pyrrol | [N+](=O)([O-])C=1C=C(C=CC1)N1C=CC=C1 | C10H8N2O2
